US08217035B2
Trifluoroacetic acid (5 eq) was added to a solution of tert-butyl 4-(2-methoxy-4-nitrophenoxy)piperidine-1-carboxylate (200 mg, 0.57 mmol, 1 eq) in dichloromethane, stirring at room temperature for 1 hour. The solvent was then evaporated, the residue was brought to pH 10 with sat. aq. Na2CO3 solution and extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate and evaporated to afford the product 4-(2-methoxy-4-nitrophenoxy)piperidine as a light yellow solid (137.3 mg, 96%). LC/MS (m/z): 253.2 (MH+), Rt 1.81 minutes.

reactant | Trifluoroacetic acid | 5 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-methoxy-4-nitrophenoxy)piperidine-1-carboxylate | 0.57 mmol, 200 mg, 1 eq | COC1=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C17H24N2O6
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-methoxy-4-nitrophenoxy)piperidine | 137.3 mg, 96% | COC1=C(OC2CCNCC2)C=CC(=C1)[N+](=O)[O-] | C12H16N2O4
